US06831087B2
b) 2-Bromo-6-ethyl-pyridine 1-oxide
To a solution of 2-bromo-6-ethyl-pyridine (15.4 g, 82.8 mmol) (S. G. Davies and M. R. Shipton, J. Chem. Soc., Perkin Trans. 1, 1991, 3, 501) in acetic acid (15 ml) was added peracetic acid (26 ml of a 39% solution) maintaining T<50° C. After complete addition the mixture was stirred at 50° C. for 5 hr and then cooled to room temperature (rt). Crushed ice (40 g) was added and the pH was adjusted to pH 12 with 40% aqueous KOH solution. After extraction with CHCl3 (6×60 ml) the combined organic phases were dried (Na2CO3) and evaporated to give 20.0 g (>100%) of the title compound, MS: m/e=201 (M+) as a yellow oil.

reactant | 2-bromo-6-ethyl-pyridine | 82.8 mmol, 15.4 g | BrC1=NC(=CC=C1)CC | C7H8BrN
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
reactant | KOH | [OH-].[K+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-6-ethyl-pyridine 1-oxide | 20.0 g, >100% | BrC1=[N+](C(=CC=C1)CC)[O-] | C7H8BrNO
